US04289772
Dimethylcarbamoyl chloride (2.7 g) was added slowly to a stirred, cooled solution of 1-benzyl-4-(methylamino)piperidine dihydrochloride (7 g) in dry chloroform (50 ml) and triethylamine (7.7 g). The mixture was then stirred at room temperature for 3 hours and heated under reflux for a further 7 hours. The cooled mixture was treated with water (50 ml), separated, and the chloroform layer dried (MgSO4) and evaporated in vacuo to give 1-(1-Benzylpiperid-4yl)-1,3,3-trimethyl urea (6.5 g) as a mobile oil.

reactant | Dimethylcarbamoyl chloride | 2.7 g | CN(C(=O)Cl)C | C3H6ClNO
reactant | 1-benzyl-4-(methylamino)piperidine dihydrochloride | 7 g | Cl.Cl.C(C1=CC=CC=C1)N1CCC(CC1)NC
reactant | triethylamine | 7.7 g | C(C)N(CC)CC | C6H15N
reactant | water | 50 ml | O | H2O
solvent | chloroform | 50 ml | C(Cl)(Cl)Cl | CHCl3
product | 1-(1-Benzylpiperid-4yl)-1,3,3-trimethyl urea | 6.5 g | C(C1=CC=CC=C1)N1CCC(CC1)N(C(=O)N(C)C)C | C16H25N3O
